US06506797B1
Ethyl 2-methoxy-3-[4-methoxy-3-[N-[[4-(trifluoromethyl)phenyl]methyl]carbamoyl]phenyl]acrylate
Ethyl 2-(diethoxyphosphoryl)-2-methoxyacetate (265 mg, 1.10 mmol) was dissolved in 3 ml of dehydrated tetrahydrofuran and potassium t-butoxide (123 mg, 1.10 mmol) was added under stirring and cooling with ice under an atmosphere of argon, which was stirred for 30 minutes. Next, N-[[4-(trifluoromethyl)phenyl]methyl]-5-formyl-2-methoxybenzamide (338 mg, 1.00 mmol) dissolved in 2 ml of dehydrated tetrahydrofuran was added. After stirring for 1 hour at room temperature, the reaction mixture was poured into ice water, which was extracted with ethyl acetate, washed with water and brine in sequence, then dried over anhydrous sodium sulfate and concentrated. The residue was purified by silica gel chromatography (eluate n-hexane:ethyl acetate=3:1 v/v) to obtain 330 mg (78%) of the title compound (mixture of geometrical isomers relevant to double bond) as colorless crystals.

reactant | Ethyl 2-(diethoxyphosphoryl)-2-methoxyacetate | 1.10 mmol, 265 mg | C(C)OP(=O)(OCC)C(C(=O)OCC)OC | C9H19O6P
reactant | potassium t-butoxide | 1.10 mmol, 123 mg | CC(C)([O-])C.[K+]
reactant | N-[[4-(trifluoromethyl)phenyl]methyl]-5-formyl-2-methoxybenzamide | 1.00 mmol, 338 mg | FC(C1=CC=C(C=C1)CNC(C1=C(C=CC(=C1)C=O)OC)=O)(F)F | C17H14F3NO3
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | Ethyl 2-methoxy-3-[4-methoxy-3-[N-[[4-(trifluoromethyl)phenyl]methyl]carbamoyl]phenyl]acrylate | 330 mg, 78% | COC(C(=O)OCC)=CC1=CC(=C(C=C1)OC)C(NCC1=CC=C(C=C1)C(F)(F)F)=O | C22H22F3NO5
